US04410354
Embodiment XXVI--2-Ethyl-1,6-dioxaspiro[4.5]decane-2-methanol
To 5.5 g of 6-(3-ethyl-(3,4-epoxybutyl))-3,4-dihydro-2H-pyran was added a solution of 2 ml of 10% hydrochloric acid in 25 ml of tetrahydrofuran. The reaction mixture was stirred under nitrogen for five days and then poured into 150 ml of diethyl ether. The resulting solution was washed twice with 50 ml of saturated sodium bicarbonate solution, and dried, and the solvent was removed under high vacuum to yield 6 g of the desired product as a dark brown oil.

reactant | 6-(3-ethyl-(3,4-epoxybutyl))-3,4-dihydro-2H-pyran | 5.5 g | C(C)C1(CCC2=CCCCO2)CO1 | C11H18O2
reactant | hydrochloric acid | 2 ml | Cl | ClH
reactant | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 2-Ethyl-1,6-dioxaspiro[4.5]decane-2-methanol | 6 g | C(C)C1(OC2(CC1)OCCCC2)CO | C11H20O3
